US05025031
Ethylsulfamic Acid Phenyl Ester
A solution of 18.8 g (0.2 mole) of phenol and 38.4 g (0.27 mole) of ethylaminosulfonyl chloride (prepared using procedure of Example 2, pt. a) in 150 ml of toluene was stirred and heated at reflux for 16 hr. The solution was cooled and then treated with 250 ml of a 20% sodium bicarbonate solution. The layers were separated and the organic layer was washed successively with 250 ml of a 20% sodium bicarbonate solution, two 300-ml portions of water and dried (magnesium sulfate). The solvent was evaporated under reduced pressure and the oily residue was purified by chromatography (4.5×105 cm glass column; 550 g of silica gel; ethyl acetate-hexanes, 1:16). Fractions containing the product were combined and the solvents evaporated under reduced pressure to give 28.5 g (71%) of the title compound as a colorless liquid. Elemental analysis suggested that the product contained water.

reactant | phenol | 0.2 mole, 18.8 g | C1(=CC=CC=C1)O | C6H6O
reactant | ethylaminosulfonyl chloride | 0.27 mole, 38.4 g | C(C)NS(=O)(=O)Cl | C2H6ClNO2S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | Ethylsulfamic Acid Phenyl Ester | 28.5 g, 71% | C1(=CC=CC=C1)OS(NCC)(=O)=O | C8H11NO3S
